* Behavioral SAR ADC Model for Mixed-Signal System Simulation
* 
* Simulates an N-bit SAR ADC using ideal comparators, DAC, and logic.
* In a real run, this would be replaced with the transistor-level netlist.

.subckt adc_sar_behavioral in clk out_0 out_1 out_2 out_3 out_4 out_5 out_6 out_7 vref_p vref_n vdd vss
    * Ideal sampling switch
    S_sample in sample_hold clk vss my_switch
    C_hold sample_hold vss 1p

    * The internal logic of the SAR is usually too complex for pure SPICE 
    * without A-to-D bridges or Verilog-A. 
    * For this placeholder, we use a simple behavioral controlled source 
    * that acts as a quantizer (staircase function).
    
    E_quantize out_analog vss vol='floor((v(sample_hold)-v(vref_n)) / (v(vref_p)-v(vref_n)) * 255) / 255 * (v(vref_p)-v(vref_n)) + v(vref_n)'
    
    * Convert to bits (Ideal ADCs)
    * In Xyce or Ngspice with XSPICE, we would use an adc_bridge.
    A1 out_analog [out_0 out_1 out_2 out_3 out_4 out_5 out_6 out_7] my_adc
    
    .model my_switch sw vt=0.6 vh=0.1 ron=10 roff=1G
    * .model my_adc adc_bridge(in_low=0.1 in_high=1.1)
.ends
