* Active TX Leakage Canceller (Variable Gain Inverting Attenuator)
* IHP SG13G2 PDK

.subckt tx_leakage_canceller IN OUT_ATTEN V_CTRL VDD VSS
    * AC coupling from PA output
    C_in IN base 500f
    
    * DC Bias controlled by V_CTRL to tune gain (gm)
    R_bias V_CTRL base 5k
    R_bias_gnd base VSS 10k
    
    * Common Emitter (Provides exactly 180 degrees phase shift)
    X_amp OUT base emit VSS npn13G2l m=2
    R_emit emit VSS 20
    
    * Collector Load
    R_load VDD OUT 200
    
    * AC Coupling to Output
    C_out OUT out_ac_internal 500f
    
    * Output Attenuator Network (~ -40dB)
    * We use this to scale down to the leakage level (0.01x)
    R_div1 out_ac_internal OUT_ATTEN 2k
    R_div2 OUT_ATTEN VSS 50
.ends tx_leakage_canceller
