* 30 GHz LNA Testbench for IHP SG13G2 (Common Emitter)
*
.title 30 GHz LNA Simulation

* Include IHP SG13G2 PDK Models (Mapped relatively to avoid spaces)
.lib "../../../../junk/vco/IHP-Open-PDK-0.3.0/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ

* Basic Common Emitter LNA Core
.subckt lna_core in out vdd vss
    * Transistor: npn13G2l is the standard high-speed HBT in SG13G2
    * format: Xname c b e s modelname
    X1 out in vss vss npn13G2l m=1
    
    * Load Resistor (placeholder for inductor)
    R_load vdd out 100
.ends

* Bias and Supply
VDD vdd 0 1.2

* RF Input (Port 1) with DC bias
V_PORT1 in 0 dc 0.85 ac 1

* DUT Instantiation
xLNA in out vdd 0 lna_core

.control
    * Operating Point to verify DC bias
    op
    print v(out) v(in)
    
    * AC Analysis around 30 GHz
    ac dec 10 1G 100G
    
    * Plot S21-like parameter (Gain)
    * plot db(v(out)/v(in))
.endc
.end
